US06284915B1
The fraction which contains 4-(2-bromoethyl)octanophenone prepared in the step N (500 mg) was dissolved in anhydrous ethanol (2 ml) to obtain a solution. Sodium ethylate (164 mg) was added to the solution. The mixture was stirred under atmosphere of nitrogen at 60° C. for 1 hour. The suspension was dissolved in N,N-dimethylformamide (10 ml) to obtain a solution. Diethyl acetamide malonate (1050 mg) and sodium ethylate (245 mg) were added to the solution, and the solution was stirred under atmosphere of nitrogen at 60° C. overnight. The reaction solution was poured into ice water, extracted with ether, and washed with saturated saline solution. The extracted solution was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography using hexane-ethyl acetate (1:0e3:1) as an eluate to obtain diethyl acetamide-2-(4-octanoyl phenyl)ethyl malonate (477 mg) in the form of colorless crystal.

reactant | 4-(2-bromoethyl)octanophenone | BrCCC(CCC(=O)C1=CC=CC=C1)CCCC | C16H23BrO
reactant | Sodium ethylate | 164 mg | CC[O-].[Na+]
reactant | Diethyl acetamide malonate | 1050 mg | C(CC(=O)O)(=O)O.C(C)C(C(=O)N)CC
reactant | sodium ethylate | 245 mg | CC[O-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | diethyl acetamide 2-(4-octanoyl phenyl)ethyl malonate | 477 mg | C(C)C(C(=O)N)CC.C(CC(=O)[O-])(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | InChI=1S/C19H26O5.C6H13NO/c1-2-3-4-5-6-7-17(20)16-10-8-15(9-11-16)12-13-24-19(23)14-18(21)22;1-3-5(4-2)6(7)8/h8-11H,2-7,12-14H2,1H3,(H,21,22);5H,3-4H2,1-2H3,(H2,7,8)/p-1
